* Inverter using a NMOS Transistor

.include ./t14y_tsmc_025_level3.txt

* NET List
* m0 drain gate source bulk
m0 out in 0 0 cmosn l=2.5u w=10u
rl supply out 7k
cl out 0 5n

* source
vdd supply 0 dc 3.3
vin in 0 dc 3.3 pulse(0 3.3 0 0.1n 0.1n 0.5m 1m)

.control
foreach len 1u 2.5u 10u 
alter @m0[l] = $len

tran 0.1m 4m

dc vin 0 3.3 0.01

meas dc vol find out when in=3.29
let slope=deriv(out)
let voh=3.3
meas dc vih find in when slope=-1 cross=2
meas dc vil find in when slope=-1 cross=1

let v90 = voh-0.1*(voh-vol)
let v10 = vol+0.1*(voh-vol)
let vhalf = voh-0.5*(voh-vol)

end

plot dc1.out dc2.out dc3.out
plot deriv(dc1.out) deriv(dc2.out) deriv(dc3.out)


setplot tran1
plot in out
*plot -vdd#branch
meas tran trise trig out val=dc1.v10 rise=1 targ out val=dc1.v90 rise=1
meas tran tfall trig out val=dc1.v90 fall=1 targ out val=dc1.v10 fall=1

meas tran tlh trig in val=1.65 fall=1 targ out val=dc1.vhalf rise=1
meas tran thl trig in val=1.65 rise=1 targ out val=dc1.vhalf fall=1
let td = 0.5*(thl+tlh)

let power = -3.3*vdd#branch
meas tran pavg AVG power from=0m to=2m 


setplot tran2
plot in out
*plot -vdd#branch
meas tran trise trig out val=dc2.v10 rise=1 targ out val=dc2.v90 rise=1
meas tran tfall trig out val=dc2.v90 fall=1 targ out val=dc2.v10 fall=1

meas tran tlh trig in val=1.65 fall=1 targ out val=dc2.vhalf rise=1
meas tran thl trig in val=1.65 rise=1 targ out val=dc2.vhalf fall=1
let td = 0.5*(thl+tlh)

let power = -3.3*vdd#branch
meas tran pavg AVG power from=0m to=2m 


setplot tran3
plot in out
*plot -vdd#branch
meas tran trise trig out val=dc3.v10 rise=1 targ out val=dc3.v90 rise=1
meas tran tfall trig out val=dc3.v90 fall=1 targ out val=dc3.v10 fall=1

meas tran tlh trig in val=1.65 fall=1 targ out val=dc3.vhalf rise=1
meas tran thl trig in val=1.65 rise=1 targ out val=dc3.vhalf fall=1
let td = 0.5*(thl+tlh)

let power = -3.3*vdd#branch
meas tran pavg AVG power from=0m to=2m 
.endc

.end
